US05210204
To a solution of 4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid hydrazide (400 mg, 1 mmol) and triethylamine (130 mg, 1.3 mmol) in THF (20 mL) was added carbonyldiimidazole (275 mg, 1.7 mmcl) at 0° C. The reaction mixture was stirred at room temperature overnight and the solvent was evaporated. The residue was dissolved in water and the solution was adjusted to pH 3 by the addition of IN HCl. The resulting precipitate was collected by filtration and dried under vacuum to give 5- [4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin 3-yl]methyl][1,1'-biphenyl-2-yl]-1,3,4 oxadiazol-2[3H]-one (0.35 g, 81%) as a partial hydrate, mp 210°-212° C.

reactant | 4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid hydrazide | 1 mmol, 400 mg | CC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)NN)C | C24H25N5O
reactant | triethylamine | 1.3 mmol, 130 mg | C(C)N(CC)CC | C6H15N
reactant | carbonyldiimidazole | 275 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin 3-yl]methyl][1,1'-biphenyl-2-yl]-1,3,4 oxadiazol-2[3H]-one | 0.35 g, 81% | CC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)N2C(OC=N2)=O)C | C25H23N5O2
